US08247403B2
(4) tert-butyl 8-bromo-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate
A solution of 4-benzyl-8-bromo-2,3,4,5-tetrahydro-1,4-benzoxazepine (1.00 g, 3.14 mmol) and 1-chloroethyl chloroformate (0.591 ml, 5.49 mmol) in 1,2-dichloroethane (20 ml) was stirred for 1 hr at 90° C. The solvent was evaporated under reduced pressure. To the residue was added methanol (20 ml), and the mixture was stirred for 1 hr at 80° C. The solvent was evaporated under reduced pressure and the residue was washed with ether. To the residue were added 1N aqueous sodium hydroxide solution (7 ml), dioxane (7 ml) and di-t-butyl-dicarbonate (1.13 g, 5.18 mmol) under ice-cooling, and the mixture was stirred for 1 hr at room temperature. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:1) to give the desired product (670 mg, 65.0%) as a solid.

reactant | 4-benzyl-8-bromo-2,3,4,5-tetrahydro-1,4-benzoxazepine | 3.14 mmol, 1.00 g | C(C1=CC=CC=C1)N1CCOC2=C(C1)C=CC(=C2)Br | C16H16BrNO
reactant | 1-chloroethyl chloroformate | 5.49 mmol, 0.591 ml | ClC(=O)OC(C)Cl | C3H4Cl2O2
reactant | sodium hydroxide | 1N, 7 ml | [OH-].[Na+]
reactant | di-t-butyl-dicarbonate | 5.18 mmol, 1.13 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | 1,2-dichloroethane | 20 ml | ClCCCl | C2H4Cl2
solvent | water | O | H2O
solvent | dioxane | 7 ml | O1CCOCC1 | C4H8O2
product | tert-butyl 8-bromo-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 670 mg, 65.0% | BrC1=CC2=C(CN(CCO2)C(=O)OC(C)(C)C)C=C1 | C14H18BrNO3
